US05376681
2,2,4,5,6-Pentamethyl-2,3-dihydrobenzofuran
3,4,5-Trimethylphenol (5.0 g, 36.7 mmol) and 2-methyl-2-propenol (3.2 g, 44.0 mmol) were added to formic acid (50 ml). The mixture was heated under reflux for 3 hours. The reaction mixture was diluted with isopropyl ether, washed with water and saturated sodium bicarbonate solution, dried and concentrated. The residue was purified by column chromatography on silica gel (hexane-isopropyl ether, 97:3) to obtain the desired compound (2.9 g, yield: 41.5%) as oil.

reactant | 3,4,5-Trimethylphenol | 36.7 mmol, 5.0 g | CC=1C=C(C=C(C1C)C)O | C9H12O
reactant | 2-methyl-2-propenol | 44.0 mmol, 3.2 g | CC(CO)=C | C4H8O
reactant | formic acid | 50 ml | C(=O)O | CH2O2
solvent | isopropyl ether | C(C)(C)OC(C)C | C6H14O
product | 2,2,4,5,6-Pentamethyl-2,3-dihydrobenzofuran | 2.9 g, yield: 41.5% | CC1(OC2=C(C1)C(=C(C(=C2)C)C)C)C | C13H18O
